US04515799
2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetonitrile
A solution of trifluoroacetic anhydride (0.56 g) in dioxane (5 ml) was added dropwise over 5 minutes to a stirred, ice-cooled solution of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetamide (0.84 g) and pyridine (0.32 g) in dioxane (25 ml). The mixture was stirred at room temperature for 4 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over sodium sulphate and evaporated. The residue was purified by chromatography on silica (10 g) eluting with dichloromethane plus 0-2% v/v methanol. Appropriate fractions were combined and evaporated to give the title compound (0.60 g), m.p. 128°-130° C.

reactant | trifluoroacetic anhydride | 0.56 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetamide | 0.84 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)N)C(=O)OCC | C20H23ClN2O6
reactant | pyridine | 0.32 g | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetonitrile | 0.60 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC#N)C(=O)OCC | C20H21ClN2O5
